US09447030B2
To a solution of tert-butyl 2-amino-4-(thiophen-2yl)phenylcarbamate (0.12 g, 0.41 mmol, 1.0 equiv.) in pyridine (2 mL) was added a solution of dimethylcarbamic chloride (0.07 g, 0.62 mmol, 1.5 equiv.) in toluene (0.3 mL). The resulting solution was stirred at room temperature overnight. The crude residue was diluted with water (10 mL) and extracted with ethyl acetate (10 mL×2). The combined organic layers were washed with water (10 mL), dried, filtered and concentrated. The crude residue was washed with petroleum ether (5 mL) to afford tert-butyl (2-(3,3-dimethylureido)-4-(thiophen-2-yl)phenyl)carbamate (0.12 g, 80% yield).

reactant | tert-butyl 2-amino-4-(thiophen-2yl)phenylcarbamate | 0.41 mmol, 0.12 g, 1.0 equiv. | NC1=C(C=CC(=C1)C=1SC=CC1)NC(OC(C)(C)C)=O | C15H18N2O2S
reactant | dimethylcarbamic chloride | 0.62 mmol, 0.07 g, 1.5 equiv. | CN(C(=O)Cl)C | C3H6ClNO
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | toluene | 0.3 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 10 mL | O | H2O
product | tert-butyl (2-(3,3-dimethylureido)-4-(thiophen-2-yl)phenyl)carbamate | 0.12 g, 80% yield | CN(C(NC1=C(C=CC(=C1)C=1SC=CC1)NC(OC(C)(C)C)=O)=O)C | C18H23N3O3S
